US07470679B2
N-(5-Fluoro-2-formylphenyl)pivalamide
N-(2-bromo-5-fluorophenyl)pivalamide(2.4 g, 8.75 mmol)) was dissolved in THF(30 mL) at room temperature, and the colorless solution was cooled to −78° C., followed by fast dropwise addition of t-BuLi (10.3 mL, 1.7M in heptane, 17.4 mmol) under N2 over 10 min. The resulting yellow solution was continued stirring at −78° C. for 1 hr, followed by dropwise addition of DMF(2.7 mL, 35.0 mmol) over 5 min. The light yellow solution was stirred for additional 30 min at −78° C. Thus the mixture was quenched with saturated NH4Cl (30 mL), extracted with Et2O (2×150 mL). The combined organic phase was washed with brine(30 mL), dried over MgSO4, concentrated on rotary vacuum, and purified on flash chromatography eluting with 25˜50% EtOAc/hexanes (1400 mL) to afford an expected product, as a white solids(1.03 g, 53% yield); 1H NMR (400 MHz, CDCl3) δppm 1.30 (s, 9H), 6.80-6.86 (m, 1H), 7.63 (dd, J=8.56, 6.04 Hz, 1H), 8.53 (dd, J=12.21, 2.39 Hz, 1H), 9.83 (s, 1H), 11.54 (s, 1H); Mass spec. 224.16 (MH+), Calc. for C12H14FNO2 223.1.

reactant | N-(2-bromo-5-fluorophenyl)pivalamide | 8.75 mmol, 2.4 g | BrC1=C(C=C(C=C1)F)NC(C(C)(C)C)=O | C11H13BrFNO
reactant | t-BuLi | 17.4 mmol, 1.7M, 10.3 mL | [Li]C(C)(C)C
reactant | DMF | 35.0 mmol, 2.7 mL | CN(C)C=O | C3H7NO
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | N-(5-Fluoro-2-formylphenyl)pivalamide | FC=1C=CC(=C(C1)NC(C(C)(C)C)=O)C=O | C12H14FNO2
